US07786132B2
1-(2-(4-(Benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
A mixture of 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine (75 mg, 0.26 mmol)), 1-(2-aminoethyl)imidazolidin-2-one (33 mg, 0.26 mmol) and triethylamine (32 mg, 0.31 mmol) in methoxyethanol (3 mL) was heated at 100° C. overnight. After cooling to rt the solvent was removed in vacuo and the product was purified by chromatography eluting with methanol/dichloromethane (1:20) to give the title compound as a slightly yellow solid (56 mg, 64%). MS (M+H)+ 340.

reactant | 4-(benzo[b]thiophen-2-yl)-2-(methylsulfonyl)pyrimidine | 0.26 mmol, 75 mg | S1C2=C(C=C1C1=NC(=NC=C1)S(=O)(=O)C)C=CC=C2 | C13H10N2O2S2
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 0.26 mmol, 33 mg | NCCN1C(NCC1)=O | C5H11N3O
reactant | triethylamine | 0.31 mmol, 32 mg | C(C)N(CC)CC | C6H15N
solvent | methoxyethanol | 3 mL | COC(C)O | C3H8O2
product | 1-(2-(4-(Benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | S1C2=C(C=C1C1=NC(=NC=C1)NCCN1C(NCC1)=O)C=CC=C2 | C17H17N5OS
